US08629271B2
d) (E)-Ethyl 4,4-dimethyl-9-(tetrahydro-2H-pyran-2-yloxy)non-2-enoate
A solution of triethyl phosphonoacetate (1.62 mL) in acetonitrile (8 mL) was treated with lithium chloride (0.43 g) and then cooled to 0° C. and triethylamine (1.23 mL) added dropwise as a solution in acetonitrile (2.5 mL). The reaction mixture was stirred at 0° C. for 15 minutes then a solution of 2,2-dimethyl-7-(tetrahydro-pyran-2-yloxy)-heptanal (1.65 g) in acetonitrile (6 mL) was added. The resultant mixture was allowed to warm to room temperature and was stirred for 3 hours before treating with saturated aqueous ammonium chloride solution, ether and water. The layers were separated and the aqueous phase was extracted with ether (×2) and the combined organics were washed with brine, dried over magnesium sulphate, filtered and evaporated to afford the crude product. Purification was by silica gel chromatography eluting with 0 to 40% ethyl acetate in cyclohexane to afford the subtitled compound as a colourless oil. Yield 0.89 g.

reactant | lithium chloride | 0.43 g | [Cl-].[Li+]
reactant | triethylamine | 1.23 mL | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethyl-7-(tetrahydro-pyran-2-yloxy)-heptanal | 1.65 g | CC(C=O)(CCCCCOC1OCCCC1)C | C14H26O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | (E)-Ethyl 4,4-dimethyl-9-(tetrahydro-2H-pyran-2-yloxy)non-2-enoate | CC(/C=C/C(=O)OCC)(CCCCCOC1OCCCC1)C | C18H32O4
